US08912210B2
Step F: tert-Butyl (6S)-6′-oxo-5,6′,7,7′-tetrahydrospiro[cyclopenta[b]pyridine-6,5′-pyrrolo[2,3-d]pyrimidine]-3-carboxylate
To a solution of tert-butyl (6S)-4′-chloro-6′-oxo-5,6′,7,7′-tetrahydrospiro[cyclopenta[b]pyridine-6,5′-pyrrolo[2,3-d]pyrimidine]-3-carboxylate (200 mg, 0.537 mmol) in dry ethyl acetate (5.37 mL) was added triethylamine (299 μL, 2.15 mmol) and palladium on carbon (571 mg, 10%, 0.537 mmol). The reaction was placed on a Parr apparatus at 50 psi hydrogen gas. After 16 h, the reaction mixture was filtered under a nitrogen atmosphere through Celite®, washing with ethyl acetate. The filtrate was concentrated to give the title compound, along with one equivalent of triethylamine hydrochloride. MS: m/z=339.3 (M+1).

reactant | tert-butyl (6S)-4′-chloro-6′-oxo-5,6′,7,7′-tetrahydrospiro[cyclopenta[b]pyridine-6,5′-pyrrolo[2,3-d]pyrimidine]-3-carboxylate | 0.537 mmol, 200 mg | ClC=1C2=C(N=CN1)NC([C@]21CC=2C(=NC=C(C2)C(=O)OC(C)(C)C)C1)=O | C18H17ClN4O3
reactant | triethylamine | 2.15 mmol, 299 μL | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | 5.37 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 0.537 mmol, 571 mg | [Pd] | Pd
product | tert-Butyl (6S)-6′-oxo-5,6′,7,7′-tetrahydrospiro[cyclopenta[b]pyridine-6,5′-pyrrolo[2,3-d]pyrimidine]-3-carboxylate | O=C1[C@@]2(C3=C(N=CN=C3)N1)CC=1C(=NC=C(C1)C(=O)OC(C)(C)C)C2 | C18H18N4O3
